US04268516
2-(4-Chlorophenyl)-1,2,3,4-tetrahydro[1]benzothiopyrano[4,3-c]pyrazol-3-one-5-oxide
In a 50 ml. round bottom flask under nitrogen was placed 2-(p-chlorophenyl)-1,2,3,4-tetrahydro[1]benzothiopyrano[4,3-c]pyrazole-3-one (0.5 g., 0.0016 mole) 8.33 ml. of glacial acetic acid and 3 ml. of 30% hydrogen peroxide. After stirring at 0° C., for 3.5 hours, the resulting solid was removed by filtration, washed with glacial acetic acid and dried in vacuo over phosphorous pentoxide to afford product, m.p. 193° C. (dec.). Weight 0.42 g. (80%). A second crop (0.4 g., 8%) was obtained from mother liquors.

reactant | 2-(p-chlorophenyl)-1,2,3,4-tetrahydro[1]benzothiopyrano[4,3-c]pyrazole-3-one | 0.0016 mole, 8.33 ml, 0.5 g | ClC1=CC=C(C=C1)N1NC2=C(C1=O)CSC1=C2C=CC=C1 | C16H11ClN2OS
reactant | hydrogen peroxide | OO | H2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(4-Chlorophenyl)-1,2,3,4-tetrahydro[1]benzothiopyrano[4,3-c]pyrazol-3-one-5-oxide | ClC1=CC=C(C=C1)N1NC2=C(C1=O)CS(C1=C2C=CC=C1)=O | C16H11ClN2O2S
